US05051413
By reaction of 2-formylamino-3-hydroxy-4-methyl-4-pentenoic acid ethyl ester with thionyl bromide and subsequent treatment with trimethyl phosphite in a manner analogous to that described in Example 1, E-2-formylamino-4-methyl-5-dimethylphosphono-3-pentenoic acid ethyl ester is obtained in the form of a pale yellow oil.

reactant | 2-formylamino-3-hydroxy-4-methyl-4-pentenoic acid ethyl ester | C(C)OC(C(C(C(=C)C)O)NC=O)=O | C9H15NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | E-2-formylamino-4-methyl-5-dimethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OC)OC)/C)NC=O)=O | C11H20NO6P
